US08975252B2
A solution of di-tert-butyl dicarbonate in dichloromethane (8 ml) was added to a solution of N-{[3-bromo-1-(3-methoxypropyl)-1H-indazol-6-yl]methyl}cyclopropanamine (1.21 g) in dichloromethane (28 ml) under ice-cooling and the mixture was stirred at room temperature for 19 hours. The reaction mixture was concentrated in vacuo and the resulted residue was purified with a silica gel column chromatography (eluting solvent: n-hexane/ethyl acetate=5/1 to 4/1) to give tert-butyl {[3-bromo-1-(3-methoxypropyl)-1H-indazol-6-yl]methyl}cyclopropylcarbamate (1.53 g) as a colorless powder.

reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-{[3-bromo-1-(3-methoxypropyl)-1H-indazol-6-yl]methyl}cyclopropanamine | 1.21 g | BrC1=NN(C2=CC(=CC=C12)CNC1CC1)CCCOC | C15H20BrN3O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 28 ml | ClCCl | CH2Cl2
product | tert-butyl {[3-bromo-1-(3-methoxypropyl)-1H-indazol-6-yl]methyl}cyclopropylcarbamate | 1.53 g | BrC1=NN(C2=CC(=CC=C12)CN(C(OC(C)(C)C)=O)C1CC1)CCCOC | C20H28BrN3O3
